US04203897
Potassium thiocyanate (1.17 g) was dissolved in a mixture of water (20 ml) and acetone (100 ml). To this solution was added 2,2,2-trichloroethyl 2-bromoethyl-2-methyl-6-(2-phenyl-acetamido)penam-3-carboxylate (5.45 g) at room temperature and the mixture was stirred for 5.5 hours at room temperature. After removing acetone under reduced pressure at room temperature, precipitates were collected by filtration, washed with ether and further washed with ethanol to give 2,2,2-trichloroethyl 2-thiocyanatomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (4.10 g). This substance was recrystallized from isopropylether containing 5% acetone to give pure compound, mp 133° to 135° C.

reactant | Potassium thiocyanate | 1.17 g | [S-]C#N.[K+]
reactant | 2,2,2-trichloroethyl 2-bromoethyl-2-methyl-6-(2-phenyl-acetamido)penam-3-carboxylate | 5.45 g | BrCCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C19H20BrCl3N2O4S
solvent | water | 20 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2,2,2-trichloroethyl 2-thiocyanatomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 4.10 g | S(C#N)CC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C19H18Cl3N3O4S2
